US07855202B2
2-Methoxy-3-nitro-6-(1,3-oxazol-2-yl)pyridine
An oven-dried resealable Schlenk tube was charged with 6-chloro-2-methoxy-3-nitropyridine (0.50 g, 2.6 mmol), 2-tributylstannanyloxazole (1.20 g, 3.4 mmol) and 1,4-dioxane (10 mL) and then subjected to several cycles of evacuation-backfilling with argon. Tetrakis(triphenylphosphine)palladium (0.18 g, 0.16 mmol) was then added and, after three new cycles of evacuation-backfilling with argon, the Schlenk tube was sealed and the mixture was stirred and heated in an oil bath to 110° C. After stirring overnight, water and ethyl acetate were added and the organic layer was washed with water, dried (MgSO4) and evaporated. The residue was purified by flash chromatography (2:1 hexanes/ethyl acetate) to give the title compound (0.38 g, 67%) as a yellow solid.

reactant | 6-chloro-2-methoxy-3-nitropyridine | 2.6 mmol, 0.50 g | ClC1=CC=C(C(=N1)OC)[N+](=O)[O-] | C6H5ClN2O3
reactant | 2-tributylstannanyloxazole | 3.4 mmol, 1.20 g | C(CCC)[Sn](C=1OC=CN1)(CCCC)CCCC
reactant | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
reactant | water | O | H2O
catalyst | Tetrakis(triphenylphosphine)palladium | 0.16 mmol, 0.18 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Methoxy-3-nitro-6-(1,3-oxazol-2-yl)pyridine | 0.38 g, 67% | COC1=NC(=CC=C1[N+](=O)[O-])C=1OC=CN1 | C9H7N3O4
